US05580647
Di(acryloyloxyethyl)phthalate (DAP)
A five liter, three necked flask was equipped with a overhead stirrer, nitrogen atmosphere and addition funnel. The flask was charged with 636 g of 2-hydroxyethylacrylate (5.47 mol.), 547 g of triethylamine (5.41 mol.), 6 g of phenothiazine, 5 g of 4-dimethylaminopyridine and 3000 ml of tetrahydrofuran. The reaction was cooled to 17° C. with a water bath. Next, 563 g of phthaloyl chloride (2.75 mol.) was slowly added over 2.5 hours via the addition funnel. The reaction was stirred an additional 8 hours at room temperature. The triethylamine hydrochloride salt was removed by filtration and the mother liquor evaporated by rotoevaporation to yield an amber colored liquid. The liquid was placed under vacuum (15 mmHg, 2 kPa) and heated to 100° C. for one hour. The resulting liquid was collected to yield 995 g (99%) of the desired product. The product was confirmed by IR and 13C NMR. The preparation of di(acryloyloxyethyl)phthalate from phthalic anhydride and 2-hydroxyethylacrylate was reported in U.S. Pat. No. 3,336,418.

reactant | 2-hydroxyethylacrylate | 5.47 mol, 636 g | OCCOC(C=C)=O | C5H8O3
reactant | triethylamine | 5.41 mol, 547 g | C(C)N(CC)CC | C6H15N
reactant | phthaloyl chloride | 2.75 mol, 563 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
catalyst | 4-dimethylaminopyridine | 5 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | phenothiazine | 6 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | tetrahydrofuran | 3000 ml | O1CCCC1 | C4H8O
product | Di(acryloyloxyethyl)phthalate | 995 g, 99% | C(C=C)(=O)OCCOC(C=1C(C(=O)OCCOC(C=C)=O)=CC=CC1)=O | C18H18O8
